US04892872
To a solution of 5.0 g of 6-chloro-3,4-dihyro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide in 100 ml of chloroform with cooling at -30° C. is added 4.02 g of 80% metachloroperbenzoic acid, and the system stirred at -20° C. to -25° C. for about 30 minutes. The resultant solution is stirred at room temperature for 20 minutes and ammonia gas is bubbled into the solution at 10°-18° C. The precipitated crystals are filtered off and the filtrate is concentrated under reduced pressure. The residue is purified with column chromatography with a mixed eluent of chloroform and methanol (10:1) and to the residue is added acetonictile. The crystals are collected by filtration and recrystallized form acetonitrile to give 6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide N-oxide hemihydrate, melting at 198°-200° C. with decomposition.

reactant | 6-chloro-3,4-dihyro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide | 5.0 g | ClC=1C=C(C2=C(N(C(CO2)=O)C)C1)C(=O)NC1CN2CCC1CC2 | C17H20ClN3O3
reactant | metachloroperbenzoic acid | 4.02 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide N-oxide hemihydrate | O.ClC=1C=C(C2=C(N(C(CO2)=O)C)C1)C(=O)[NH+](C1CN2CCC1CC2)[O-].ClC=2C=C(C1=C(N(C(CO1)=O)C)C2)C(=O)[NH+]([O-])C2CN1CCC2CC1 | InChI=1S/2C17H20ClN3O4.H2O/c2*1-19-13-7-11(18)6-12(16(13)25-9-15(19)22)17(23)21(24)14-8-20-4-2-10(14)3-5-20;/h2*6-7,10,14,21H,2-5,8-9H2,1H3;1H2
